US04931083
1-(2,4-dichlorophenyl)semicarbazide
A 20 g portion of 2,4-dichlorophenylhydrazine hydrochloride was added to 200 ml of water and the solution was heated to 80°. Then 6.8 g of potassium cyanate was dissolved in 75 ml of water, and that solution was added dropwise to the first solution. The mixture was stirred for 4 hours at 80°, and it was then cooled. The product was collected by filtration, dried, and recrystallized from ethanol to obtain 11.8 g of the desired intermediate.

reactant | 2,4-dichlorophenylhydrazine hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)NN
reactant | potassium cyanate | 6.8 g | [O-]C#N.[K+]
solvent | water | 75 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 1-(2,4-dichlorophenyl)semicarbazide | 11.8 g | ClC1=C(C=CC(=C1)Cl)NNC(=O)N | C7H7Cl2N3O
